US04788199
The procedure is as in Example 70, starting with 6-nitro-2-phenyl-4-hydroxyquinoline (6 g) in tetrahydrofuran (60 cc), N,N-diethylcarbamoyl chloride (6.1 g), triethylamine (6.3 cc) and 4-dimethylaminopyridine (1.3 g). The residue is recrystallized twice in ethyl acetate. 6-Nitro-2-phenyl-4-quinolyl diethylcarbamate (6.4 g), m.p. 140° C., is thereby obtained.

reactant | 6-nitro-2-phenyl-4-hydroxyquinoline | 6 g | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)O | C15H10N2O3
reactant | N,N-diethylcarbamoyl chloride | 6.1 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | triethylamine | 6.3 cc | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 cc | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.3 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-Nitro-2-phenyl-4-quinolyl diethylcarbamate | 6.4 g | C(C)N(C(OC1=CC(=NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC=CC=C1)=O)CC | C20H19N3O4
